US05180742
A mixture of (7R)-(+)-7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-7-phenylheptanoic acid (0.71 g, 2.0 mmoles), p-bromophenacylbromide (0.56 g, 2.0 mmoles), and potassium carbonate (0.30 g, 2.2 mmole) in acetone (15 ml) was stirred for 2.5 hours at room temperature. After the reaction was completed, the solvent was evaporated in a reduced pressure, the residue was taken up in the isopropylether. Working up in the usual manner gave the crude product, which was chromatographed on silica gel column with isopropylether to give p-bromophenacyl (7R)-(+)-7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-7-phenylheptanoate (1.09 g, 99%) as an oil.

reactant | (7R)-(+)-7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-7-phenylheptanoic acid | 2.0 mmoles, 0.71 g | CC1=C(C(C(=C(C1=O)C)C)=O)[C@H](CCCCCC(=O)O)C1=CC=CC=C1 | C22H26O4
reactant | p-bromophenacylbromide | 2.0 mmoles, 0.56 g | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
reactant | potassium carbonate | 2.2 mmole, 0.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | p-bromophenacyl (7R)-(+)-7-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-7-phenylheptanoate | 1.09 g, 99% | CC1=C(C(C(=C(C1=O)C)C)=O)[C@H](CCCCCC(=O)OCC(=O)C1=CC=C(C=C1)Br)C1=CC=CC=C1 | C30H31BrO5
